US05624943
152.6 g of potassium carbonate and 15.3 g of cesium carbonate are added to a solution of 122 g of 3-hydroxy-2-iodopyridine and 65.7 ml of benzyl bromide in 1.5 l of dimethylformamide, and the suspension is stirred under argon atmosphere for 20 hours at room temperature. The reaction mixture is filtered, the filter residue is washed with dichloromethane, the filtrate is concentrated by evaporation, and the residue is chromatographed on silica gel with hexane/10-20% ethyl acetate. 146.3 g of 3-benzyloxy-2-iodopyridine is obtained as oil.

reactant | potassium carbonate | 152.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-hydroxy-2-iodopyridine | 122 g | OC=1C(=NC=CC1)I | C5H4INO
reactant | benzyl bromide | 65.7 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 1.5 l | CN(C=O)C | C3H7NO
catalyst | cesium carbonate | 15.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
product | 3-benzyloxy-2-iodopyridine | 146.3 g | C(C1=CC=CC=C1)OC=1C(=NC=CC1)I | C12H10INO
